US07105671B2
A solution of diisopropylamine (7.04 mL, 49.97 mmol) in dry tetrahydrofuran (140 mL) cooled to −78° C. under argon was treated with a 2.5M solution of n-butyllithium in hexanes (19.8 mL, 49.5 mmol). The reaction mixture was stirred at −78° C. for 30 min and then treated dropwise with a solution of (4-fluoro-3-trifluoromethyl-phenyl)-acetic acid (5.00 g, 22.51 mmol) in dry tetrahydrofuran (25 mL) and 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone (8.5 mL). The reaction mixture turned gold in color and was allowed to stir at −78° C. for 1 h. At this time, the reaction was treated with a solution of trifluoromethanesulfonic acid tetrahydro-pyran-2-yl methyl ester (7.26 g, 29.26 mmol) in dry tetrahydrofuran (100 mL). The reaction mixture was allowed to warm to 25° C., where it was stirred for 30 min. The reaction mixture then was quenched with a saturated aqueous ammonium chloride solution (100 mL) and then concentrated in vacuo to remove tetrahydrofuran. The aqueous residue was acidified to pH=2 using a 1N aqueous hydrochloric acid solution. The resulting aqueous layer was extracted with ethyl acetate (2×250 mL). The combined organic extracts were dried over sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230–400 mesh, 3/7 hexanes/ethyl acetate to 1/1 hexanes/ethyl acetate) afforded 2-(4-fluoro-3-trifluoromethyl-phenyl)-3-(tetrahydro-pyran-2-yl)-propionic acid (5.20 g, 72%) as a yellow gum: EI-HRMS m/e calcd for C15H16F4O3 (M+Na)+ 343.0931, found 343.0928.

reactant | diisopropylamine | 49.97 mmol, 7.04 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | (4-fluoro-3-trifluoromethyl-phenyl)-acetic acid | 22.51 mmol, 5.00 g | FC1=C(C=C(C=C1)CC(=O)O)C(F)(F)F | C9H6F4O2
reactant | tetrahydrofuran | 140 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone | 8.5 mL | CN1C(N(CCC1)C)=O | C6H12N2O
catalyst | gold | [Au] | Au
product | 2-(4-fluoro-3-trifluoromethyl-phenyl)-3-(tetrahydro-pyran-2-yl)-propionic acid | 5.20 g, 72% | FC1=C(C=C(C=C1)C(C(=O)O)CC1OCCCC1)C(F)(F)F | C15H16F4O3
